US07645755B2
c) 4-Cyano-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-4-piperidin-4-yl-phenyl]-amide
A solution of 124 mg (0.196 mmol) 4-[4-{[4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonyl]-amino}-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (as prepared in the previous step) in 10 mL CH2Cl2 was treated with 200 μL MeOH and 3 mL TFA at RT for 3.5 h. Solvents were evaporated in vacuo. The residue was taken up in CH2Cl2 (30 mL) and washed with saturated aqueous NaHCO3 (1×20 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to afford 70.0 mg (89%) of the title compound as a white solid: Mass spectrum (ESI, m/z): Calcd. for C24H29N5O, 404.2 (M+H), found 404.3.

reactant | 4-[4-{[4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonyl]-amino}-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.196 mmol, 124 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCC(CC1)(C)C | C35H51N5O4Si
reactant | MeOH | 200 μL | CO | CH4O
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-4-piperidin-4-yl-phenyl]-amide | 70.0 mg, 89% | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1CCNCC1)NC(=O)C=1NC=C(N1)C#N)C | C24H29N5O
